'6 inverters as gates
.gen freq=1 offset=2.5 init=2.5 ampl=2.5 
Vdd  8  0  dc 5.
V1   1  0  generator( 1. ) 
U7   7 6  mos inv
U6   6 5  mos inv
U5   5 4  mos inv
U4   4 3  mos inv
U3   3 2  mos inv
U2   2 1  mos inv
.model  mos logic ( delay= 1n  rise= 1n  fall= 1n  rs= 100.  rw= 1.G 
+ thh= 0.75  thl= 0.25  mr= 5.  mf= 5.  over=10k vmax= 5.  vmin= 0. )
.option mode=digital vmax=5.1 vmin=-.1
.print op v(1 2 3 4 5 6 7 8) logic(1 2 3 4 5 6 7 8)
.op
'.option trace
'.print tran v(nodes) l(nodes) control(0)
'.tran 0 10 .05  watch
.list
.stat notime
.end 
